US05792768
Step 1: 2-Benzimidazolylacetic acid
A mixture of 2-benzimidazolylacetonitrile (5.58 g, 35.5 mmol) and 4M sodium hydroxide solution (25 ml) in ethanol (100 ml) was heated at reflux for 8 h. The reaction mixture was concentrated in vacuo, the residue dissolved in water (100 ml), and extracted with ethyl acetate (2×100 ml). The aqueous phase was acidified with dilute hydrochloric acid to pH 4-5, the precipitated solid was filtered, washed with water, and dried to give the title compound (5.97 g, 95%) as a buff solid; δH (DMSO-d6) 2.47 (2H, s, CH2CO2H), 7.09 (2H, m, ArH), 7.39 (1H, brs, ArH), 7.48 (1H, brs, ArH), and 12.13 (1H, brs, NH).

reactant | 2-benzimidazolylacetonitrile | 35.5 mmol, 5.58 g | N1=C(NC2=C1C=CC=C2)CC#N | C9H7N3
reactant | sodium hydroxide | 4M, 25 ml | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Benzimidazolylacetic acid | 5.97 g, 95% | N1=C(NC2=C1C=CC=C2)CC(=O)O | C9H8N2O2
